US20010041740A1
First, 31.4 g (120 mmol) of triphenylphosphine and 4.9 g (48 mmol) of triethylamine were added to 20 ml of carbon tetrachloride, to which 3.8 g (40 mmol) of difluoroacetic acid was added dropwise under ice cooling. After completion of the dropwise addition, the mixture was stirred under ice cooling for 10 minutes. Then, a solution of 9.2 g (40 mmol) of 2,6-dichloro-4-trifluoromethylaniline in 20 ml of carbon tetrachloride was added dropwise to the reaction mixture, which was heated at 80° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, followed by addition of hexane, and undissolved matter was removed by filtration. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 6.0 g of N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2-difluoroacetimidoyl chloride.

reactant | triphenylphosphine | 120 mmol, 31.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 48 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
reactant | difluoroacetic acid | 40 mmol, 3.8 g | FC(C(=O)O)F | C2H2F2O2
reactant | 2,6-dichloro-4-trifluoromethylaniline | 40 mmol, 9.2 g | ClC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4Cl2F3N
reactant | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(2,6-dichloro-4-trifluoromethylphenyl)-2,2-difluoroacetimidoyl chloride | 6.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N=C(C(F)F)Cl | C9H3Cl3F5N
